US08476287B2
<Step 1> Synthesis of 5-chloro-3-(methoxymethoxy)Isothiazole
To a solution of 5-chloro-isothiazol-3-ol (5.00 g) in tetrahydrofuran (50 mL), 1,8-diazabicyclo[5.4.0]undeca-7-ene (8.42 g) was added, and to the resultant reaction mixture, a solution of chloromethyl methyl ether (4.45 g) in tetrahydrofuran (25 mL) was dropped under ice-cooling at an inside temperature of 10° C. or less. After the completion of dropping, the inside temperature was elevated to room temperature and the reaction mixture was stirred for 10 minutes. To the reaction mixture, water was added and the resultant reaction mixture was extracted with ethyl acetate. The organic phase was washed with saturated saline and was dried over anhydrous sodium sulfate. From the organic phase, the solvent was distilled off under reduced pressure to obtain the subject compound (6.15 g) as a brown oil.

reactant | 5-chloro-isothiazol-3-ol | 5.00 g | ClC1=CC(=NS1)O | C3H2ClNOS
reactant | 1,8-diazabicyclo[5.4.0]undeca-7-ene | 8.42 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | chloromethyl methyl ether | 4.45 g | COCCl | C2H5ClO
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 5-chloro-3-(methoxymethoxy)Isothiazole | 6.15 g | ClC1=CC(=NS1)OCOC | C5H6ClNO2S
